US05215982
To a solution of 1-ethoxycarbonylmethyl-1H-imidazo-[1,2-b]pyrazole (35 g) in ethanol (180 ml) was added 28% ammonium hydroxide solution {110 ml). The mixture was stirred at room temperature for two hours. The resultant precipitate was collected by filtration, washed with isopropyl ether and dried to give 1-carbamoylmethyl-1H-imidazo[1,2-b]pyrazole [18.0 g).

reactant | 1-ethoxycarbonylmethyl-1H-imidazo-[1,2-b]pyrazole | 35 g | C(C)OC(=O)CN1C=CN2N=CC=C21 | C9H11N3O2
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | ethanol | 180 ml | C(C)O | C2H6O
product | 1-carbamoylmethyl-1H-imidazo[1,2-b]pyrazole | C(N)(=O)CN1C=CN2N=CC=C21 | C7H8N4O
